US06613942B1
4-hydroxy-8-methoxynaphthalene-1-carbaldehyde (1 g, 5 mmol) was dissolved in DMF (15 mL). To this mixture potassium carbonate (3.4 g, 25 mmol) and 1,2-dibromoethane (4 mL, 50 mmol) were added and the resulting mixture was stirred at room temperature for 16 hours. Water. (150 mL) was added and the resulting mixture was extracted with ethyl acetate (3×90 mL). The combined organic extracts were washed with saturated sodium chloride (100 mL), dried (MgSO4) and evaporated in vacuo to afford 1.13 g (74%) of 4-(2-bromoethoxy)-8-methoxynaphthalene-1-carbaldehyde.

reactant | 4-hydroxy-8-methoxynaphthalene-1-carbaldehyde | 5 mmol, 1 g | OC1=CC=C(C2=C(C=CC=C12)OC)C=O | C12H10O3
reactant | potassium carbonate | 25 mmol, 3.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 50 mmol, 4 mL | BrCCBr | C2H4Br2
reactant | Water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(2-bromoethoxy)-8-methoxynaphthalene-1-carbaldehyde | 1.13 g, 74% | BrCCOC1=CC=C(C2=C(C=CC=C12)OC)C=O | C14H13BrO3
